US08895603B2
To a solution of tert-butyl (3Z)-3-[(dimethylamino)methylene]-4-oxopyrrolidine-1-carboxylate (58.2 kg, 242 mol) in toluene (251 kg) at 35-45° C. was added hydrazine hydrate (14.6 kg, 290 mol) via drop-wise addition over 2 h. The mixture was then stirred for 10 h at this temperature. The batch was then cooled to 0-10° C. and the slurry stirred for 6 h. This slurry was then filtered and the cake washed with n-heptane. The solids were then dried under vacuum overnight at 35-50° C. to give tert-butyl 6a-hydroxy-3a,4,6,6a-tetrahydropyrrol[3,4-c]pyrazole-5(1H)-carboxylate.

reactant | tert-butyl (3Z)-3-[(dimethylamino)methylene]-4-oxopyrrolidine-1-carboxylate | 242 mol, 58.2 kg | CN(C)\C=C/1\CN(CC1=O)C(=O)OC(C)(C)C | C12H20N2O3
reactant | hydrazine hydrate | 290 mol, 14.6 kg | O.NN
solvent | toluene | 251 kg | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 6a-hydroxy-3a,4,6,6a-tetrahydropyrrol[3,4-c]pyrazole-5(1H)-carboxylate | OC12NN=CC1CN(C2)C(=O)OC(C)(C)C | C10H17N3O3
